US07145035B2
A solution of N-[2-methyl-4-(trifluoromethyl)phenyl]acetamide (5.17 g) and aqueous hydrochloric acid (37%, 12 mL) in ethanol (24 mL) was heated to reflux for 3 hours and then stirred at ambient temperature for 48 hours. GC analysis of the reaction mixture showed a 98:2 peak area ratio of 2-methyl-4-(trifluoromethyl)aniline to starting material. 2-Methyl-4-(trifluoromethyl)aniline hydrochloride was obtained as a white solid by filtering the reaction mixture and washing the solids with ethyl acetate. A second crop of 2-methyl-4-(trifluoromethyl)aniline hydrochloride was obtained by evaporating the filtrate to dryness, triturating the residue in ethyl acetate, then filtering, providing a total of 4.27 g (85% yield).

reactant | N-[2-methyl-4-(trifluoromethyl)phenyl]acetamide | 5.17 g | CC1=C(C=CC(=C1)C(F)(F)F)NC(C)=O | C10H10F3NO
reactant | hydrochloric acid | 12 mL | Cl | ClH
reactant | 2-methyl-4-(trifluoromethyl)aniline | CC1=C(N)C=CC(=C1)C(F)(F)F | C8H8F3N
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | 2-Methyl-4-(trifluoromethyl)aniline hydrochloride | Cl.CC1=C(N)C=CC(=C1)C(F)(F)F | InChI=1S/C8H8F3N.ClH/c1-5-4-6(8(9,10)11)2-3-7(5)12;/h2-4H,12H2,1H3;1H
